US08729071B2
To a solution of benzyl 5-bromopicolinate (876 mg, 3.0 mmol) in THF (10 mL) was added Pd(PPh3)4 (173 mg, 0.15 mmol) under N2. After addition of a solution of cyclopropylzinc bromide in THF (0.5 M, 10 mL), the mixture was heated at 80° C. for 3 hours and then cooled to room temperature. The reaction mixture was quenched with sat. NH4Cl (aq) and extracted with EtOAc (3×). The organic layer was washed with sat. NaHCO3(aq.), brine, and dried (MgSO4). The product benzyl 5-cyclopropylpicolinate (510 mg) was obtained by silica gel chromatography (elution with 0-15% EtOAc/Hex, then 15% EtOAc/Hex).

reactant | benzyl 5-bromopicolinate | 3.0 mmol, 876 mg | BrC=1C=CC(=NC1)C(=O)OCC1=CC=CC=C1 | C13H10BrNO2
reactant | cyclopropylzinc bromide | [Br-].C1(CC1)[Zn+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 M, 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.15 mmol, 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | benzyl 5-cyclopropylpicolinate | 510 mg | C1(CC1)C=1C=CC(=NC1)C(=O)OCC1=CC=CC=C1 | C16H15NO2
